US05693321
Methylene bis [p-(2,3-epoxy-1-propyloxy)benzoate]
Potassium tert.butoxide (1.347 g, 12.00 mmol) is added to a solution of methylene di(p-hydroxybenzoate) prepared as described in Example 4(o) (1,728 g, 6.00 mmol) in DMF (75 ml), under a dry N2 atmosphere. Epichlorohydrin (2.22 g, 24.00 mmol) is added and after 24 hours at 20° C. the solvent is removed under reduced pressure. The residue is dissolved by adding dichloromethane (75 ml) and water (30 ml) and adjusting the pH to neutral using hydrochloric acid (1 M). After separating the phases the dichloromethane layer is washed with water (3×30 ml). The organic phase is dried (MgSO4) and the solvent removed under reduced pressure to give 1.22 g (51%) product as a colourless oil. 1H NMR (60 MHz, CDCl3): δ2.8 (4H, m, 2×epoxy--CH2), 3.3 (2H, m, 2×epoxy--CH), 4.05 (2H, dd, J=22, 11 Hz, 2×O--CH--H), 4.12 (2H, dd, J=22, 11 Hz, 2×O--CH--H), 6.14 (2H, s, O--CH2 --O), 6.9 (4H, m, 2×Ar), 7.9 (4H, m, 2×Ar).

reactant | Potassium tert.butoxide | 12.00 mmol, 1.347 g | CC(C)([O-])C.[K+]
reactant | methylene di(p-hydroxybenzoate) | OC1=CC=C(C(=O)OCOC(C2=CC=C(C=C2)O)=O)C=C1 | C15H12O6
reactant | Epichlorohydrin | 24.00 mmol, 2.22 g | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Methylene bis [p-(2,3-epoxy-1-propyloxy)benzoate] | 1.22 g, 51% | O1C(COC2=CC=C(C(=O)OCOC(C3=CC=C(C=C3)OCC3CO3)=O)C=C2)C1 | C21H20O8
